US04514401
In to a suspension of 3.0 g of 6-chloroacetyl-3,4-dihydrocarbostyril being suspended in 20 ml of dimethylformamide was added dropwise gradually a solution consisting of 1.9 g of hexamine and 20 ml of dimethylformamide. After the addition was completed the reaction mixture was stirred at 50° to 60° C. for 2 hours. Then the crystals precipitated in the reaction mixture were collected by filtration, and were washed with methanol, dried to obtain 3.5 g of crude crystals of 6-hexaminiumacetyl-3,4-dihydrocarbostyril chloride. Then, 15 ml of ethanol and 6 ml of concentrated hydrochloric acid were added to the 3.5 g of the crude crystals of 6-hexaminiumacetyl-3,4-dihydrocarbostyril chloride and the mixture was stirred at a room temperature for 12 hours. The crystals thus formed were collected by filtration, and recrystallized from methanol-water to obtain 1.2 g of 6-aminoacetyl-3,4-dihydrocarbostyril monohydrochloride in the form of colorless powdery crystals. Melting point: Higher than 300° C.

reactant | 6-chloroacetyl-3,4-dihydrocarbostyril | 3.0 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | hexamine | 1.9 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-aminoacetyl-3,4-dihydrocarbostyril monohydrochloride | 1.2 g | Cl.NCC(=O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C11H12N2O2.ClH/c12-6-10(14)8-1-3-9-7(5-8)2-4-11(15)13-9;/h1,3,5H,2,4,6,12H2,(H,13,15);1H
